US04187379
A solution of 74.3 g of 3-(2-chlorophenoxy)pyridine [Agr. Biol. Ghem., 34, 68 (1970)] in 75 ml of glacial acetic acid in three equal portions. The temperature is maintained at 35°-40° C. for 16 hours and 75 ml of isopropanol is added and the mixture is refluxed 1 hour. The mixture is concentrated at reduced pressure and the oil is dissolved in 500 ml of dichloromethane. The extract is washed with 25% sodium hydroxide solution, concentrated and distilled to yield 3-(2-chlorophenoxy)pyridine 1-oxide, bp 145°-160° C. at 0.15 mM, mp 60°-64° C.

reactant | 3-(2-chlorophenoxy)pyridine | 74.3 g | ClC1=C(OC=2C=NC=CC2)C=CC=C1 | C11H8ClNO
reactant | isopropanol | 75 ml | C(C)(C)O | C3H8O
solvent | acetic acid | 75 ml | C(C)(=O)O | C2H4O2
product | 3-(2-chlorophenoxy)pyridine 1-oxide | ClC1=C(OC=2C=[N+](C=CC2)[O-])C=CC=C1 | C11H8ClNO2
